US08957203B2
To a solution of (3R)-ethyl 2-((diphenylmethylene)amino)-3,5-dimethylnon-8-enoate (20 g) in diethyl ether (20 mL) was added aqueous 1.5 N HCl solution (200 mL) and the reaction mass was stirred at room temperature overnight. The reaction mass was washed with diethyl ether (100 mL). The aqueous solution was basified using saturated sodium bicarbonate solution and was extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to get crude compound (3R)-ethyl 2-amino-3,5-dimethylnon-8-enoate hydrochloride (4 g, 30%). The crude compound was taken to the next step without further purification.

reactant | (3R)-ethyl 2-((diphenylmethylene)amino)-3,5-dimethylnon-8-enoate | 20 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C | C26H33NO2
reactant | HCl | 1.5 N, 200 mL | Cl | ClH
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (3R)-ethyl 2-amino-3,5-dimethylnon-8-enoate hydrochloride | 4 g, 30% | Cl.NC(C(=O)OCC)[C@@H](CC(CCC=C)C)C | InChI=1S/C13H25NO2.ClH/c1-5-7-8-10(3)9-11(4)12(14)13(15)16-6-2;/h5,10-12H,1,6-9,14H2,2-4H3;1H/t10?,11-,12?;/m1./s1
